US05321029
1-(Cyclopropylmethyl)-3-cyclopentyl-7-(2-oxopropyl)-xanthine
The title compound was prepared from 1-cyclopropylmethyl-7-(2-oxopropyl)xanthine and cyclopentylbromide in an analogous procedure to that of Example 19. The product was obtained as a crystalline solid; m.p. 155° C.

reactant | 1-cyclopropylmethyl-7-(2-oxopropyl)xanthine | C1(CC1)CN1C(=O)NC=2N=CN(C2C1=O)CC(C)=O | C12H14N4O3
reactant | cyclopentylbromide | C1(CCCC1)Br | C5H9Br
product | 1-(Cyclopropylmethyl)-3-cyclopentyl-7-(2-oxopropyl)-xanthine | C1(CC1)CN1C(=O)N(C=2N=CN(C2C1=O)CC(C)=O)C1CCCC1 | C17H22N4O3
